Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Bright Red Blood Per Rectum
 
Major Surgical or Invasive Procedure:
Colonoscopy ___

 
History of Present Illness:
Mr. ___ is a ___ y/o man with a PMH of L-sided ulcerative 
colitis (on mesalamine), HLD, GERD, and depression, who recently 
underwent routine screening colonoscopy (___) with 
surveillance biopsies and cold snare polypectomy who presents 
with BRBPR. He had several bloody BMs (blood mixed with stool) 
on ___. He reports that the blood is similar to prior UC 
flares, but he experienced less pain and more blood. After 
another bloody BM this morning, he called his 
gastroenterologist, who advised him to come to the ED for 
concern for post-polypectomy bleed. No NSAID use.  

 
Past Medical History:
 PAST MEDICAL HISTORY:  
 - ulcerative colitis (diagnosed ___, on mesalamine)  
 - GERD  
 - depression  
 - HLD  
 - anxiety  
 - plantar fasciitis  
 - facial abscess requiring drainage  
 - insomnia  
 - varicose veins  
 - osteopenia  

 
Social History:
___
Family History:
FAMILY HISTORY:  
- Mother and sister with Crohn's disease.  
- Paternal grandmother with ileitis.  
- Paternal grandfather died of colon cancer at age ___. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VS: T 98.1F BP 136/90 mmHg P 56 RR 16 O2 98% RA  
General: Pleasant, NAD.  
HEENT: MMM, OP clear. No conjunctival pallor.  
Neck: Supple, no JVD.  
CV: RRR, no MRGs; normal S1/S2.  
Pulm: CTA b/l; no wheezes, rhonchi, or rales.  
Abd: Soft, non-tender, non-distended, NABS.  
Ext: Warm and well-perfused. Capillary refill <2 sec. No edema.  

Neuro: A&Ox3; CNs II-XII grossly intact.  
 
DISCHARGE PHYSICAL EXAM: 
Vitals: Temperature:97.9  BP: 115 / 73  HR: 61  RR: 18 98% RA  
General: alert, oriented, no acute distress  
HEENT: sclera anicteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
GU: no foley  
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CNs2-12 intact, motor function grossly normal  
 
Pertinent Results:
ADMISSIONS LAB:
___ 05:10PM BLOOD WBC-8.3 RBC-4.86 Hgb-13.8 Hct-42.4 MCV-87 
MCH-28.4 MCHC-32.5 RDW-12.5 RDWSD-39.9 Plt ___
___ 06:45AM BLOOD WBC-7.7 RBC-4.96 Hgb-14.3 Hct-43.5 MCV-88 
MCH-28.8 MCHC-32.9 RDW-12.7 RDWSD-40.6 Plt ___
___ 05:10PM BLOOD Neuts-59.3 ___ Monos-7.4 Eos-2.2 
Baso-0.7 Im ___ AbsNeut-4.90 AbsLymp-2.50 AbsMono-0.61 
AbsEos-0.18 AbsBaso-0.06
___ 05:10PM BLOOD Plt ___
___ 06:45AM BLOOD Plt ___
___ 06:45AM BLOOD Glucose-117* UreaN-13 Creat-1.1 Na-138 
K-4.4 Cl-100 HCO3-27 AnGap-15
___ 06:45AM BLOOD Calcium-9.4 Phos-3.4 Mg-2.0

DISCHARGE LAB:
___ 06:38AM BLOOD WBC-6.7 RBC-4.70 Hgb-13.8 Hct-41.2 MCV-88 
MCH-29.4 MCHC-33.5 RDW-12.8 RDWSD-40.9 Plt ___
___ 06:38AM BLOOD Plt ___
___ 06:38AM BLOOD Glucose-124* UreaN-13 Creat-1.2 Na-138 
K-4.2 Cl-102 HCO3-24 AnGap-16
___ 06:38AM BLOOD ALT-20 AST-17 AlkPhos-55 TotBili-0.9
___ 06:38AM BLOOD Calcium-9.1 Phos-3.4 Mg-2.1
___ 06:38AM BLOOD CRP-0.8
___ 06:38AM BLOOD
___ 06:38AM BLOOD SED RATE-PND

IMAGING:

___: Colonoscopy 

Findings:  

Excavated Lesions Multiple shallow non-bleeding ulcers ranging 
in size from 1 mm to 2 mm were found scattered in the whole 
colon. No fresh of old blood was noted.   
 
Impression: Multiple shallow non-bleeding ulcers ranging in size 
from 1 mm to 2 mm were found scattered in the whole colon. No 
fresh of old blood was noted.
Otherwise normal colonoscopy to cecum 

Recommendations: Return patient to hospital ward. Follow-up with 
inpatient GI service. 

Additional notes: No specimens obtained. Estimated blood loss = 
0cc; See impression for final diagnosis. The patient's 
reconciled home medication list is appended to this report. 
Several studies have shown that colon polyps and even small 
cancers may be missed during colonoscopy. Therefore if in the 
future ___ notice blood in your stool or develop other new 
symptoms, please bring it to the attention of your primary care 
physician. 

MICROBIOLOGY:

___ 10:00 am STOOL     CONSISTENCY: NOT APPLICABLE

   Cryptosporidium/Giardia (DFA) (Pending): 

   OVA + PARASITES (Pending): 

   FECAL CULTURE (Pending): 

   CAMPYLOBACTER CULTURE (Pending): 

   FECAL CULTURE - R/O E.COLI ___:H7 (Pending): 

   FECAL CULTURE - R/O VIBRIO (Pending): 

   FECAL CULTURE - R/O YERSINIA (Pending): 

**FINAL REPORT ___

   C. difficile DNA amplification assay (Final ___: 
      Negative for toxigenic C. difficile by the Illumigene DNA
      amplification assay. 
           (Reference Range-Negative). 
 
Brief Hospital Course:
Mr. ___ is a ___ y/o man with a PMH of L-sided ulcerative 
colitis (on mesalamine), HLD, GERD, and depression, who recently 
underwent a routine colonoscopy and polypectomy, who presented 
with BRBPR. GI was consulted, patient was evaluated with repeat 
colonoscopy, which showed small ulcers, suggesting that bleeding 
was most likely secondary to prior polyp removal. The patient 
was evaluated for infectious etiologies with stool studies - the 
results of which are pending at the time of discharge. The 
patient was monitored and his BP remained stable and his 
bleeding resolved. 

# Lower GI bleed: The patient presented with bright red blood 
per rectum, in setting of recent polypectomy. The patient also 
reported a history of abdominal bloating, cramping and nausea 
with some recent new exposures (including travel and the death 
of a pet). The patient was evaluated by GI, who performed repeat 
colonoscopy. This showed: multiple shallow non-bleeding ulcers 
ranging in size from 1 mm to 2 mm in the whole colon, without 
fresh of old blood. GI suspected bleeding was most likely due to 
recent polypectomy. Given recent exposures and history of UC, 
the patient was evaluated with stool studies (C. difficile DNA 
amplification assay; Cryptosporidium/Giardia, E.coli ___:H7, 
Yersinia; Vibrio; Ova and Parasites). C diff was negative, 
remaining stool studies were pending at the time of discharge. 
There was a low index of suspicion for UC flare, given stable 
and normal CRP. ESR pending at the time of discharge. The 
patient's H/H and BP remained stable following repeat 
colonoscopy and his BRBPR resolved.  
  
# Ulcerative colitis: The patient was continued on his home 
mesalamine 6 grams daily.  Dr. ___ not show any signs of 
an reflair of his UC as above.  

# Depression: The patient was continued on his home fluoxetine 
20 mg daily  

# HLD: The patient was continued on his home rosuvastatin 5 mg 
at bedtime 

# GERD  The patient was continued home operazole 10 mg daily  

# Transitional Issues:
- follow up pending stool studies: including giardia, O+P, fecal 
culture, campylobacter culture, E coli, Vibrio, Yersinia. C diff 
negative at discharge. 
- follow up ESR ___ and ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. FLUoxetine 20 mg PO DAILY 
2. Lialda (mesalamine) 6 gm oral DAILY 
3. Omeprazole 10 mg PO DAILY 
4. Rosuvastatin Calcium 5 mg PO QPM 

 
Discharge Medications:
1.  FLUoxetine 20 mg PO DAILY  
2.  Lialda (mesalamine) 6 gm oral DAILY  
3.  Omeprazole 10 mg PO DAILY  
4.  Rosuvastatin Calcium 5 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY: Post-Polypectomy Bleed
SECONDARY: Ulcerative Colitis 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Dr. ___, 

___ were admitted to ___ after ___ were found 
to have bright red blood per rectum after ___ underwent a 
polypectomy. ___ were given IV fluids, and we monitored here 
over night.  When ___ first arrived ___ were evaluated by GI 
doctors via ___. This procedure showed that ___ had some 
ulcers that were a result from your polypectomy.  This is a 
common occurrence and usually self resolves without incident.  
___ were discharged without incident.

Please come back to the emergency room or contact your primary 
care physician if ___ have any more bleeding from ___ rectum, 
develop fevers or feel unwell.  

It was a pleasure taking care of ___!

Your ___ Team

 
Followup Instructions:
___